US05962448
Synthesis of ethyl 1-benzyl-3-pyrrolecarboxylate
Using 1.93 g (10 mmol) of N-benzyl-N-formyl-glycine, 3.65 g (37.2 mmol) of ethyl propiolate and 10 ml of acetic anhydride, a reaction and post treatment were conducted in a similar manner as in Referential Example 1. The resulting brown oil was purified by silica gel column chromatography [silica gel: "No.9385", product of Merck & Co., Inc. (the same silica gel was also used in the subsequent referential examples and examples); eluent: ethyl acetate/hexane=1/3], whereby 2.156 g of the title compound were obtained (yield: 94.0%).

reactant | N-benzyl-N-formyl-glycine | 10 mmol, 1.93 g | C(C1=CC=CC=C1)N(CC(=O)O)C=O | C10H11NO3
reactant | ethyl propiolate | 37.2 mmol, 3.65 g | C(C#C)(=O)OCC | C5H6O2
solvent | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
product | ethyl 1-benzyl-3-pyrrolecarboxylate | 2.156 g, yield: 94.0% | C(C1=CC=CC=C1)N1C=C(C=C1)C(=O)OCC | C14H15NO2
